US07691877B2
1-Benzyl-4-amino-6,7-dimethyl-1,3-dihydro-imidazo[4,5-c]Pyridin-2-one
1-Benzyl-4-diallylamino-6,7-dimethyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one (358 mg, 1 mmol) was taken up in water (10 mL) and acetonitrile (25 mL) and RhCl(PPh3)3 (286 mg, 0.3 mmol) was added in one portion and the mixture then heated at reflux for 16 h. The mixture was allowed to cool to room temperature, and then concentrated in vacuo, and the residue purified by column chromatography on silica gel using a gradient of 95:5→85:15 DCM:MeOH to afford the title compound as a pale brown solid (77 mg, 29%).

reactant | 1-Benzyl-4-diallylamino-6,7-dimethyl-1,3-dihydro-imidazo[4,5-c]pyridin-2-one | 1 mmol, 358 mg | C(C1=CC=CC=C1)N1C(NC=2C(=NC(=C(C21)C)C)N(CC=C)CC=C)=O | C21H24N4O
reactant | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
product | 1-Benzyl-4-amino-6,7-dimethyl-1,3-dihydro-imidazo[4,5-c]Pyridin-2-one | 77 mg, 29% | C(C1=CC=CC=C1)N1C(NC=2C(=NC(=C(C21)C)C)N)=O | C15H16N4O
